US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-hydroxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (150 mg) is dissolved in N,N-dimethylformamide (1 ml), then thereto is added sodium hydride (63%,11 mg) under ice-cooling, and the mixture is stirred at 0° C. for 30 minutes. Methyl iodide (23 μl) is added thereto, and the mixture is stirred for 2 hours under ice-cooling. To the reaction mixture is added 10% aqueous citric acid solution, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=4:1) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-methoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (120 mg). MS (m/z): 614 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-hydroxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)O)CC | C27H27F6N5O4
reactant | sodium hydride | 11 mg | [H-].[Na+]
reactant | Methyl iodide | 23 μl | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-methoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OC)CC | C28H29F6N5O4
